US09233979B2
6-chloro-N-(1,1,1-trifluoropropan-2-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-amine
To a solution of 6-chloro-3-iodo-1-trityl-1H-pyrazolo[4,3-c]pyridine (0.5 g, 0.96 mmol) in anhydrous THF (5 mL) was added 1,1,1-trifluoropropan-2-amine (0.13 g, 1.2 mmol), t-Bu-X-Phos precatalyst (0.1 g, 0.14 mmol) and sodium-t-Butoxide (0.27 g, 2.8 mmol). The contents were heated to 80° C. in a sealed reaction vessel under inert atmosphere. After 4 h, the reaction mixture was brought back to ambient temperature, the reaction was quenched with H2O (10 mL) and the organic contents were extracted with EtOAc (2×50 mL), dried over Na2SO4 and concentrated. The residue thus obtained was purified by flash column chromatography, to afford the title compound (0.32 g, 67% yield). MS ESI calc'd. for C28H22ClF3N4 [M+H]+ 507. Found 507.

reactant | 6-chloro-3-iodo-1-trityl-1H-pyrazolo[4,3-c]pyridine | 0.96 mmol, 0.5 g | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)I | C25H17ClIN3
reactant | 1,1,1-trifluoropropan-2-amine | 1.2 mmol, 0.13 g | FC(C(C)N)(F)F | C3H6F3N
reactant | sodium-t-Butoxide | 2.8 mmol, 0.27 g | CC(C)([O-])C.[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | t-Bu-X-Phos precatalyst | 0.14 mmol, 0.1 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC=CC=C2P(C(C)(C)C)C(C)(C)C)C(C)C.C1=CC=C([C-]=C1)CCN.Cl[Pd+]
product | 6-chloro-N-(1,1,1-trifluoropropan-2-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-amine | 0.32 g, 67% yield | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NC(C(F)(F)F)C | C28H22ClF3N4
